US05399712
1.13 g (5.5 mol) of dicyclohexylcarbodiimide were added to a solution, cooled in ice, of 1 g (5 mmol) of 1-methylindole-3glyoxylic acid and 1.01 g (5 mmol) of pentafluorophenol in 50 ml of dry tetrahydrofuran. After stirring for 4 hours under a nitrogen atmosphere at 0° C., the mixture was allowed to warm to room temperature and left to stand for 60 hours. Then, 3 ml of glacial acetic acid were added and the mixture obtained was filtered. The filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel using dichloromethane for the elution to give 404 mg (22%) of pentafluorophenyl 1-methylindole-3-glyoxylate in the form of a pale yellow solid of melting point 168°-9° C.

reactant | dicyclohexylcarbodiimide | 5.5 mol, 1.13 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-methylindole-3glyoxylic acid | 5 mmol, 1 g | CN1C=C(C2=CC=CC=C12)C(C(=O)O)=O | C11H9NO3
reactant | pentafluorophenol | 5 mmol, 1.01 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | pentafluorophenyl 1-methylindole-3-glyoxylate | 404 mg, 22% | CN1C=C(C2=CC=CC=C12)C(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C17H8F5NO3
